US05516774
6,7-Dihydro-5H-pyrrolo[1,2-a][ 1,5]benzodiazepin-6-one
To a solution of 0.8 mmol of 1-(2-nitrophenyl)-2-pyrroleacetic acid, ethyl ester in 3 ml of ethanol is added stannus chloride dihydrate (SnCl2.2H2O) in 2 ml of concentrated hydrochloric acid (with cooling in water bath). The mixture is stirred at room temperature for 5 hours and chilled in an ice bath. To the mixture is added slowly saturated sodium carbonate solution. The solid which precipitates is filtered and the solid washed with water and then extracted with ethyl acetate. The ethyl acetate extract is dried (Na2SO4) and the solvent removed to give 0.16 g of solid which is triturated with ether to give 0.11 g of product as an off-white solid.

reactant | 1-(2-nitrophenyl)-2-pyrroleacetic acid, ethyl ester | 0.8 mmol | [N+](=O)([O-])C1=C(C=CC=C1)N1C(=CC=C1)CC(=O)OCC | C14H14N2O4
reactant | chloride dihydrate | O.O.[Cl-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2 ml | Cl | ClH
product | 6,7-Dihydro-5H-pyrrolo[1,2-a][ 1,5]benzodiazepin-6-one | 0.16 g | C1=CC=CC=2NC(CC=3N(C21)C=CC3)=O | C12H10N2O
